US04802913
Methyl(3-phenylphenoxy)acetate (6.0 g) and methyl formate (30.2 ml) were dissolved in DMF and added dropwise with stirring to a suspension of sodium hydride (1.44 g, 50% dispersion in oil) in DMF at 0° C. (ice-bath). After 45 minutes, the ice-bath was removed and the reaction mixture was stirred for 2 hours at room temperature. Aqueous sodium carbonate was then added. The aqueous layer was washed with ether, acidified to pH 4-5 with concentrated hydrochloric acid and then re-extracted with ether. The combined organic layers were washed with brine, dried, filtered and evaporated to give methyl 3-hydroxy-2-(3'-phenylphenoxy)propenate as a pale yellow oil (6.05 g, 90% yield).

reactant | Methyl(3-phenylphenoxy)acetate | 6.0 g | COC(COC1=CC(=CC=C1)C1=CC=CC=C1)=O | C15H14O3
reactant | methyl formate | 30.2 ml | C(=O)OC | C2H4O2
reactant | sodium hydride | 1.44 g | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 3-hydroxy-2-(3'-phenylphenoxy)propenate | 6.05 g, 90% yield | OC=C(C(=O)OC)OC1=CC(=CC=C1)C1=CC=CC=C1 | C16H14O4
